US08445684B2
To a solution of 1-(tert-butoxycarbonyl)-4-(4-phenylbutylidene)piperidine (216 mg, 0.69 mmol) in MeOH (10 mL) was added 20% Pd(OH)2/C (50 mg). The mixture was warmed to reflux under a H2 atmosphere for 6 h. After filtration and concentration, 1-(tert-butoxycarbonyl)-4-(4-phenylbutyl)piperidine was obtained (202 mg, 92%) as a pale yellow oil, which was used in the following step without purification. 1H NMR (CDCl3, 400 MHz) δ 7.27 (m, 2H), 7.19 (m, 3H), 4.07 (d, 2H, J=12.0 Hz), 2.63 (m, 4H), 1.57 (m, 3H), 1.46 (s, 9H), 1.34 (m, 3H), 1.24 (m, 3H), 1.06 (m, 2H).

reactant | 1-(tert-butoxycarbonyl)-4-(4-phenylbutylidene)piperidine | 0.69 mmol, 216 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=CCCCC1=CC=CC=C1 | C20H29NO2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 50 mg | [OH-].[OH-].[Pd+2]
product | 1-(tert-butoxycarbonyl)-4-(4-phenylbutyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCC1=CC=CC=C1 | C20H31NO2
